US07943780B2
Step-2: Preparation of Trityl Candesartan Cilexetil
Carbohexyl 1-chloroethyl carbonate (36 g) is added to a suspension of trityl candesartan (100 g), potassium carbonate (24 g) and potassium iodide (12 g) in DMSO (500 ml) at temperature of 60-65° C. over 30 min. Reaction mass is maintained at 60-65° C. for 2 hrs, added toluene (300 ml) and water (300 ml). Reaction mass is mixed for 15 min., allowed to settle, the layers are separated at 60-65° C. and aqueous layer is extracted with toluene (200 ml). Water (200 ml) washings are given to the combined organic layer and toluene extractions twice at temperature of 60-65° C. Toluene is distilled off from water washed organic layer at temperature below 60° C. under vacuum, ethanol (100 ml) is added, mixed for about 30 min and distilled off solvents under vacuum at temperature below 60° C. under vacuum. Residue is cooled to 30-35° C., ethanol (300 ml) is added, mixed for 2 hrs at 25-30° C. and filtered the product. Wet cake is washed with ethanol (100 ml) and suck dried. Wet weight of Cilexetil trityl candesartan is 180 g

reactant | 1-chloroethyl carbonate | 36 g | C(OC(C)Cl)([O-])=O
reactant | trityl candesartan | 100 g | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)O | C43H34N6O3
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 12 g | [I-].[K+]
solvent | DMSO | 500 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Trityl Candesartan Cilexetil | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)OC(C)OC(=O)OC9CCCCC9 | C52H48N6O6
